US07683079B2
Step A]: 1-Benzyl-3-butyl-piperidine-4-one
To a suspension of anhydrous potassium carbonate (22.8 g) and 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester (10 g) in acetone (125 ml) was added a solution of butyl iodide (13.4 g, 8.3 ml) in acetone (50 ml) under argon over a period of 30 minutes. The resulting suspension was stirred at RT for 30 min and then refluxed for 12 hours. The suspension was cooled, filtered and concentrated in vacuo. The residue was dissolved in DCM and the solution was washed with water and brine, dried over Na2SO4 and evaporated. To the residue was added aqueous HCl (20%, 100 ml) and the solution was refluxed for 24 hours. The solution was evaporated and the residue was dissolved in DCM, washed with 10% aq. Na2CO3 solution and brine, dried and evaporated. The crude product was purified by flash chromatography (ethyl acetate/hexanes 1:2) to give the product as a slightly yellow oil (6.4 g). MS (ESI): 246.4 (MH+).

reactant | potassium carbonate | 22.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzyl-4-oxo-piperidine-3-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C1CN(CCC1=O)CC1=CC=CC=C1 | C15H19NO3
reactant | butyl iodide | 8.3 ml, 13.4 g | C(CCC)I | C4H9I
solvent | acetone | 125 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-Benzyl-3-butyl-piperidine-4-one | 6.4 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CCCC | C16H23NO
